US08664288B2
1-Pivaloyl-1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea (Cmpd. 10)
To a solution of 1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea (Cmpd. 2) (5.87 g, 20 mmol) and 4-dimethylaminopyridine (60 mg) in dichloromethane (25 ml) and triethylamine (3.1 ml, 22 mmol) is added pivaloyl chloride (2.46 g, 21 mmol). The mixture is stirred 43 h at room temperature, diluted with hexane (200 ml), washed with water (4×20 ml), dried over MgSO4 and evaporated. The residue is chromatographed on silica gel (hexanes-ethyl acetate 4:1) to afford 5.49 g of the title compound as a colorless oil.

reactant | 1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea | 20 mmol, 5.87 g | C1(CCCCC1)NC(ON=C(C)CC)=NC1CCCCC1 | C17H31N3O
reactant | triethylamine | 22 mmol, 3.1 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 21 mmol, 2.46 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
catalyst | 4-dimethylaminopyridine | 60 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | hexane | 200 ml | CCCCCC | C6H14
product | 1-Pivaloyl-1,3-dicyclohexyl-O—(N-2-butylideneamino)-isourea | 5.49 g | C(C(C)(C)C)(=O)N(C(ON=C(C)CC)=NC1CCCCC1)C1CCCCC1 | C22H39N3O2
